US08106066B2
Magnesium chloride (221 mmol) and triethylamine (752 mmol) were added to a solution of diethyl malonate (375 mmol) in toluene (250 ml) and the reaction mixture was maintained for 1 h at 25° C. A solution of 2-chloronicotinoyl chloride (313 mmol) in toluene (80 mL) was added dropwise over the course of 2 h. The reaction mixture was maintained at rt for 3.5 h and was quenched with cold (0° C.) water (500 mL). The resulting solution was extracted with ethyl acetate (500 mL) and the organic layers combined. The organic layer was washed with brine (3×300 mL), dried (sodium sulfate), and was concentrated to provide diethyl 2-(2-chloronicotinoyl)malonate in 85% yield as a brown oil.

reactant | Magnesium chloride | 221 mmol | [Cl-].[Mg+2].[Cl-]
reactant | triethylamine | 752 mmol | C(C)N(CC)CC | C6H15N
reactant | diethyl malonate | 375 mmol | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2-chloronicotinoyl chloride | 313 mmol | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | diethyl 2-(2-chloronicotinoyl)malonate | 85% yield | ClC1=C(C(=O)C(C(=O)OCC)C(=O)OCC)C=CC=N1 | C13H14ClNO5
